US05136064
1,1,4-Trimethyl-2-allyl-2-aza-silacyclopentane was prepared. Chlorodimethyl(3-chloro-2-methylpropyl)silane (100 g, 0.54 mol) was slowly added to 211.73 g (3.71 mol, 6.87 eq) of undistilled allyl amine resulting in an exothermic reaction. This reaction mixture was stirred at room temperature for 15 hours, heated to reflux at atmospheric pressure for 72 hours, and heated to 120° C. under about 50 psig pressure for 16 hours. The following GC-MS ratios shown in Table I exemplified the reactions progression and the spectra observed were as shown.

reactant | Chlorodimethyl(3-chloro-2-methylpropyl)silane | 0.54 mol, 100 g | Cl[Si](CC(CCl)C)(C)C | C6H14Cl2Si
reactant | allyl amine | 3.71 mol, 211.73 g, 6.87 eq | C(C=C)N | C3H7N
product | 1,1,4-Trimethyl-2-allyl-2-aza-silacyclopentane | C[Si]1(N(CC(C1)C)CC=C)C | C9H19NSi
